US09210927B2
Preparation of (E)-2-((4-(4,4,4-Trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)phenyl)amino)isoindoline-1,3-dione (CI74)
To a stirred solution of 2-(4-vinylphenylamino)isoindoline-1,3-dione (0.3 g, 1.1 mmol) in 1,2-dichlorobenzene (5 mL) were added CuCl (0.022 g, 0.273 mmol), 2,2-bipyridyl (0.07 g, 0.46 mmol) and 5-(1-bromo-2,2,2-trifluoroethyl)-1,2,3-trichlorobenzene (0.77 g, 2.27 mmol). The reaction mixture was degassed with argon for 30 min and was heated at 180° C. for 2 h. The reaction mixture was then concentrated under reduced pressure, and the residue was purified by column chromatography (SiO2, 0-30% EtOAc in petroleum ether) to afford the title compound as a solid (450 mg, 75%): mp 187-189° C.; 1H NMR (400 MHz, CDCl3) δ 8.75 (s, 1H), 7.96 (m, 4H), 7.82 (s, 2H), 7.37 (d, J=8.8 Hz, 1H), 6.73 (d, J=8.4 Hz, 2H), 6.61 (m, 2H), 6.58 (m, 1H), 4.59 (m, 1H); ESIMS m/z 523.05 ([M−H]−).

reactant | 2-(4-vinylphenylamino)isoindoline-1,3-dione | 1.1 mmol, 0.3 g | C(=C)C1=CC=C(C=C1)NN1C(C2=CC=CC=C2C1=O)=O | C16H12N2O2
reactant | 2,2-bipyridyl | 0.46 mmol, 0.07 g | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
reactant | 5-(1-bromo-2,2,2-trifluoroethyl)-1,2,3-trichlorobenzene | 2.27 mmol, 0.77 g | BrC(C(F)(F)F)C=1C=C(C(=C(C1)Cl)Cl)Cl | C8H3BrCl3F3
solvent | 1,2-dichlorobenzene | 5 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | CuCl | 0.273 mmol, 0.022 g | Cl[Cu]
product | (E)-2-((4-(4,4,4-Trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)phenyl)amino)isoindoline-1,3-dione | 450 mg, 75% | FC(C(/C=C/C1=CC=C(C=C1)NN1C(C2=CC=CC=C2C1=O)=O)C1=CC(=C(C(=C1)Cl)Cl)Cl)(F)F | C24H14Cl3F3N2O2
